US06946579B2
Preparation of (+)-1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)butyl]piperazine monohydrochloride
(+)-1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)butyl]piperazine (6.05 g, 13.9 mmol) was diluted with MTBE (120 mL) followed by addition of HCl (2.2 M solution in isopropanol, 6.3 mL, 13.9 mmol, prepared from 0.80 g of HCl gas in 10 mL of isopropanol). The mixture formed an oil/solid mixture which upon further stirring yielded a uniformly crystalline material. The mixture was suction-filtered and rinsed with MTBE to provide a white solid which was dried under vacuum at 45° C. (5.74 g, 96.2% ee).

reactant | (+)-1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)butyl]piperazine | 13.9 mmol, 6.05 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C)(C1=CC=CC=C1)C(=O)C1CCCCC1 | C28H38N2O2
reactant | HCl | 13.9 mmol, 2.2 M, 6.3 mL, 0.80 g | Cl | ClH
solvent | MTBE | 120 mL | CC(C)(C)OC | C5H12O
product | (+)-1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)butyl]piperazine monohydrochloride | Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCC(C)(C1=CC=CC=C1)C(=O)C1CCCCC1 | InChI=1S/C28H38N2O2.ClH/c1-28(24-13-7-4-8-14-24,27(31)23-11-5-3-6-12-23)17-18-29-19-21-30(22-20-29)25-15-9-10-16-26(25)32-2;/h4,7-10,13-16,23H,3,5-6,11-12,17-22H2,1-2H3;1H
